US07476666B2
Step 2: 3-Benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid
To a solution of methyl 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (221 mg, 0.701 mmol) in MeOH (5 mL) was added 1N aqueous NaOH (2 mL, 2 mmol). The reaction was stirred for several hours at room temperature and treated with 1N aqueous HCl (2 mL, 2 mmol). The solvents were removed in vacuo to afford the title product. 1H NMR (400 MHz, CD3OD) δ 7.51-7.49 (m, 2H), 7.54-7.26 (m, 3H), 5.26 (s, 2H), 4.39-4.36 (t, 2H), 3.82-3.72 (t, 2H), 3.12 (s, 3H); ES MS (M+1)=302.

reactant | methyl 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.701 mmol, 221 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)OC | C16H17N3O4
reactant | NaOH | 2 mmol, 1N, 2 mL | [OH-].[Na+]
reactant | HCl | 2 mmol, 1N, 2 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-Benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)O | C15H15N3O4
